US06765008B1
2-Methyl-1-[2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-butan-1-one
To a solution of sec-butyl magnesium chloride (1.5 ml, 3.0 mmol, 2 M in diethyl ether) in 24 ml of dry tetrahydrofuran was added 2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidine-4-carbonitrile (0.814 g, 2.67 mmol) at room temperature and stirred for 5 hours. The mixture was quenched with 5 ml of 2N HCl, neutralized with saturated sodium bicarbonate, extracted with ethyl acetate. The organic layer was dried and concentrated to give a yellow solid. The solid was purified through silica gel column chromatography using chloroform as eluent to give 0.884 g (90%) of the title compound as yellow crystals, mp 133-135° C.

reactant | sec-butyl magnesium chloride | 3.0 mmol, 2 M, 1.5 ml | C(C)(CC)[Mg]Cl
reactant | 2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidine-4-carbonitrile | 2.67 mmol, 0.814 g | CC=1N=C(C2=C(N1)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C)C#N | C19H20N4
reactant | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
product | 2-Methyl-1-[2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-butan-1-one | 0.884 g, 90% | CC(C(=O)C=1C2=C(N=C(N1)C)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C)CC | C23H29N3O
